US08114993B2
2-(3,5-Dimethylphenyl)-6-phenylbenzoic Acid (Entry 11, Table III)
Palladium acetate (5.6 mg, 0.025 mmol), 2-phenylbenzoic acid (99 mg, 0.5 mmol) and 3,5-dimethylchlorobenzene (211 mg, 1.5 mmol), butyldi-1-adamantylphosphine (19.2 mg, 0.05 mmol), Cs2CO3 (358 mg, 1.1 mmol), molecular sieves 3 Å (155 mg and anhydrous DMF (2.5 mL). After flash chromatography and preparative HPLC 101 mg (67%) of a white solid was obtained, mp 198-200° C. (isooctane). Rf-0.79 (1/9 ethyl acetate-dichloromethane). 1H NMR (300 MHz, CDCl3) δ 2.30 (s, 6H), 7.00 (s, 1H), 7.03 (s, 2H), 7.33-7.38 (m, 7H), 7.46-7.52 (m, 1H), 9.6 (br s, 1H). 1C NMR (75 MHz, CDCl3) δ 21.7, 122.5, 126.9, 128.1, 128.8, 129.0, 129.3, 129.5, 129.8, 130.0, 132.0, 138.3, 140.7, 141.0, 141.2, 174.2. FT-IR (neat, cm1) υ 1688, 1295. Anal. calcd for C21H18O2 (302.37 g/mol): C, 83.42; H, 6.00. Found: C, 83.13; H, 6.05. The 1H NMR spectrum of 2-phenylbenzoic acid is shown in FIG. 41. The 1H NMR and 13C NMR spectra of the product are shown in FIGS. 42A&E, respectively.

reactant | isooctane | C(C)(C)CC(C)(C)C | C8H18
reactant | 2-phenylbenzoic acid | C1(=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O2
reactant | ethyl acetate dichloromethane | C(C)(=O)OCC.ClCCl
product | 2-(3,5-Dimethylphenyl)-6-phenylbenzoic Acid | CC=1C=C(C=C(C1)C)C1=C(C(=O)O)C(=CC=C1)C1=CC=CC=C1 | C21H18O2
